US05567783
Synthesis of 2-(2'-(2"-methoxy ethoxy)ethoxy)ethyl-toluene-p-sulfonate (22).
Compound 22 was prepared using the method described for the synthesis of compound 18. The reagents used were as follows, p-toluene sulphonyl chloride (170.4 g, 0.894 mol.), pyridine (400 ml) and 2-(2'-(2"-methoxy ethoxy)ethoxy)ethanol (148.7 g, 0.907 mol.) (Aldrich). The final product was a pale yellow liquid (122 g, 42%): 1H-NMR (CDCl3), d (ppm) 7.3-7.7 (m, 4H aromatic), 3.3-4.2 (m, 12H) 3.35 (s, 3H), 2.4 (s, 3H). Mass spectroscopy, m/e: 318 M+.

reactant | p-toluene sulphonyl chloride | 0.894 mol, 170.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(2'-(2"-methoxy ethoxy)ethoxy)ethanol | 0.907 mol, 148.7 g | COCCOCCOCCO | C7H16O4
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2'-(2"-methoxy ethoxy)ethoxy)ethyl-toluene-p-sulfonate | COCCOCCOCCOS(=O)(=O)C1=CC=C(C=C1)C | C14H22O6S
